US09259470B2
1M HCl (15 mL) was added to 5-fluoro-4-(2-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-2-amine (0.26 g, 0.89 mmol). The suspension was heated at reflux. After 2.5 hours, the suspension was neutralized with NaHCO3, and the solid was collected by vacuum filtration. This was suspended in MeOH and evaporated to yield 4-(5-fluoro-2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.25 g, 0.86 mmol, 97% yield). 1H NMR (400 MHz, (CD3)2SO) δ 11.80 (br s, 1H), 8.48 (d, 1H), 7.52 (d, 1H), 7.40 (d, 1H), 6.83 (br s, 1H), 6.65-6.61 (m, 1H), 3.90-3.84 (m, 3H), 3.43-3.36 (m, 2H), 1.88-1.81 (m, 2H), 1.57-1.46 (m, 2H); m/z (APCI-pos) M+1=291.1.

reactant | HCl | 1M, 15 mL | Cl | ClH
reactant | 5-fluoro-4-(2-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-2-amine | 0.89 mmol, 0.26 g | FC=1C(=NC(=NC1)NC1CCOCC1)C1=CC(=NC=C1)F | C14H14F2N4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(5-fluoro-2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.86 mmol, 0.25 g, 97% yield | FC=1C(=NC(=NC1)NC1CCOCC1)C1=CC(NC=C1)=O | C14H15FN4O2
